Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
EGD (___)
Paracentesis x3 (___)
HD line placement (___)

 
History of Present Illness:
___ with history of active alcohol abuse with cirrhosis, 
Wernicke encephalopathy, gastric bypass, severe anemia, stage IV 
CKD w/ history of temporary HD (last ___,  HTN, DVT, p/w 2 
weeks of abdominal distension and 2 days of abdominal pain. 

She reports worsening abdominal pain over the past 2 weeks, 
described as a constant dull pain diffusely through her abdomen. 
She has not been taking anything for pain, no Tylenol or NSAID 
use. She did try pepto-bismal, gas x without improvement She 
reports pain unchanged with position, hasn't been able to 
tolerating PO intake. She has noticed worsening abdominal 
distension. She reports nausea, dry heaves over the past few 
days and today had an episode of non-bloody emesis of clear 
fluid. She has been passing gas, denies diarrhea but has been 
having small non-bloody BMs. She has felt constipation and 
trialed Colace without improvement.

She reports subjective fevers and chills over the past week, new 
palpitations over the past month, dyspnea with exertion and 
sometimes at rest. She reports chronic seasonal allergies with 
congestion and rhinorrhea. She reports chronic poor UOP, mild 
dysuria when starting stream. She denies any chest 
pain/pressure, confusion.

She reports that she was seen at ___ about 2 weeks ago and  
treated with amoxicillin for a sinus infection. She had a blood 
transfusion a week ago. She is on pro-crit, increased to weekly 
recently.

She reports that on day of presentation that she drank half a 
pint, usually drinks 1 pint daily but had been drinking less due 
to abdominal pain. At ___ had ethanol of 138, had diagnostic 
para done with 60 cc's removed results are pending, given IV CTX 
and IV thiamine. 
 
Past Medical History:
EtOH Cirrhosis 
Stage IV CKD
Wernicke's Encephalopathy
Anemia
Asthma
Tobacco Use
HTN
Hypothyroidism
CIN II (cervical intraepithelial neoplasia II)
RLE DVT ___ s/p IVC filter (removed ___,  with catheter 
directed thrombolysis c/b ?extravasation into right thigh. DVT 
in setting of immobility from left patella fracture.
S/P BARIATRIC SURGERY ___ - ___ w/ Dr. ___ 
 
___ History:
___
Family History:
- T2DM
- HTN
- hypothyroidism
- asthma
- lung cancer (uncle)
- ovarian cancer in ___ (MGM)
 
Physical Exam:
ADMISSION EXAM
VS:98.7 PO 149 / 91 96 18 94 RA 
GENERAL: AOx3, mild distress  
HEENT: AT/NC, EOMI, PERRL, MM dry, icteric sclera 
HEART: RRR, S1/S2, ___ holosystolic murmur 
LUNGS: CTAB except crackles in bases (R>L), no wheezes, rhonchi, 
breathing comfortably without use of accessory muscles  
ABDOMEN: distended, diffusely tender in all quadrants (L>R), no 
rebound/guarding, hepatomegaly   
EXTREMITIES: bilateral edema, R>L, 1+ non-pitting 
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose. Able to 
recount medical history and medications without difficulty. + 
asterixis   
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE EXAM
VS: 98.2 PO___
GENERAL: Cheerful, alert.
HEENT: MMM.
CV: RRR.
RESP: CTAB without increased WOB
ABDOMEN: Distended, soft, non-tender.
EXTREMITIES: WWP. Bilateral ___ edema.
NEURO: Alert, oriented, attentive. No asterixis.

 
Pertinent Results:
ADMISSION LABS
=====================
___ 12:30AM BLOOD WBC-10.4* RBC-2.47* Hgb-8.4* Hct-25.7* 
MCV-104* MCH-34.0* MCHC-32.7 RDW-21.2* RDWSD-79.6* Plt ___
___ 12:30AM BLOOD Neuts-72.3* Lymphs-15.4* Monos-10.0 
Eos-0.6* Baso-0.4 Im ___ AbsNeut-7.50* AbsLymp-1.60 
AbsMono-1.04* AbsEos-0.06 AbsBaso-0.04
___ 12:30AM BLOOD ___ PTT-29.9 ___
___ 12:30AM BLOOD Glucose-67* UreaN-45* Creat-4.7* Na-140 
K-3.5 Cl-100 HCO3-14* AnGap-26*
___ 12:30AM BLOOD ALT-32 AST-120* AlkPhos-239* TotBili-3.1*
___ 10:55AM BLOOD Calcium-8.3* Phos-4.8* Mg-1.5*
___ 12:30AM BLOOD calTIBC-146* VitB12-868 Ferritn-560* 
TRF-112*
___ 11:46AM BLOOD ___ pO2-166* pCO2-35 pH-7.28* 
calTCO2-17* Base XS--9 Comment-GREEN TOP 
___ 12:53AM BLOOD Lactate-3.7*

MICRO
========================
__________________________________________________________
___ 12:14 pm BLOOD CULTURE      Source: Line-dialysis. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 10:53 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 3:47 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
__________________________________________________________
___ 9:55 am FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PERITONEAL FUID. 

                            **FINAL REPORT ___

   Fluid Culture in Bottles (Final ___:    NO GROWTH. 
__________________________________________________________

___ FLUID
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________

___. difficile DNA amplification assay- negartiv
___ CULTURE GRAM NEGATIVE ROD(S).    ~1000 CFU/mL. 
___ CULTUREnegative
___ CULTUREnegative

IMAGING & STUDIES
======================
___ CT Abdomen and Pelvis: 
Fatty liver with large volume ascites. No splenomegaly. Patient 
is status post gastric bypass with the excluded stomach appears 
severely edematous with thickened walls. Diffuse anasarca.  

___ RUQ US: 
1. Patent portal vasculature. Patent right and middle hepatic
veins as well  as the main hepatic artery. The left hepatic vein
was not visualized. 
2. Echogenic liver consistent with steatosis. Other forms of
liver disease and more advanced liver disease including
steatohepatitis or significant hepatic fibrosis/cirrhosis cannot
be excluded on this study. 
3. Large volume ascites. 

___ CXR 
Bilateral low lung volumes with moderate bibasilar atelectasis. 
No evidence of intraperitoneal free air. 

___ TTE
 IMPRESSION: A left pleural effusion is present. Late bubbles 
seen in the left heart suggesting intrapulmonary shunting 
(bubbles appear at 8 beats). Normal biventricular size and 
systolic function. No pathologic valvular flow. 
 Compared with the prior study (images reviewed) of ___ 
global biventricular systolic function is more vigorous.  

___ EGD
Findings:
Esophagus:
Protruding Lesions1-2 small varices were seen in the lower 
esophagus with no stigmata of bleeding.  
Stomach:
Lumen:Evidence of a previous RNYGB was seen with a 
gastrojejunostomy. 
Duodenum:
Flat LesionsA single small angioectasia was seen in the jejunal 
efferent limb. There was no evidence of bleeding.  
Otherduodenum not seen due to post surgical anatomy.  
Other findings:A jejunal feeding tube was placed into the small 
intestine endoscopically, however during oro-nasal conversion 
was noted to have become dislodged and was no longer as deep at 
the nares as when endoscopically placed. It was then advanced 
and bridled at 70 cm, however due to the fact it moved after 
endoscopic visualization it will require CXR prior to use.  

___ CXR
Increased opacities at the right lung base may reflect a 
combination of
atelectasis and pneumonia.

___ Duplex Abdominal U/S
1. No evidence of portal vein thrombosis.  Intermittent reversal 
flow within the left portal vein.  Slow flow within the main 
portal, splenic, and superior mesenteric veins.
2. Cirrhotic liver without focal liver lesions.
3. Circumferential gallbladder wall edema, likely due to third 
spacing/underlying liver disease.
4. Small volume ascites.

DISCHARGE LABS
======================
___ 07:55AM BLOOD WBC-14.2* RBC-2.12* Hgb-7.1* Hct-21.1* 
MCV-100* MCH-33.5* MCHC-33.6 RDW-20.7* RDWSD-68.7* Plt ___
___ 07:55AM BLOOD ___ PTT-35.3 ___
___ 07:55AM BLOOD Glucose-121* UreaN-28* Creat-3.7* Na-136 
K-4.3 Cl-95* HCO3-27 AnGap-14
___ 07:55AM BLOOD ALT-20 AST-66* AlkPhos-219* TotBili-1.7*
___ 07:55AM BLOOD Calcium-8.7 Phos-2.7 Mg-2.5
 
Brief Hospital Course:
==================
BRIEF SUMMARY
==================
___ with active alcohol use, alcoholic cirrhosis, Stage IV CKD, 
admitted for alcoholic hepatitis, decompensated cirrhosis, and 
anuric ___ requiring initiation of HD. Patient was alert, 
oriented, and feeling well at discharge. Outpatient HD and 
Hepatology follow-up were arranged.

==================
ACUTE ISSUES
==================
# Decompensated alcoholic cirrhosis with ascites
# Alcoholic hepatitis
# Hepatic encephalopathy
MELD Na 26 and Child C on presentation. LFTs and symptoms 
consistent with alcoholic hepatitis on cirrhosis; DF not high 
enough to warrant steroids. Had confusion and asterixis on 
admission consistent with HE. Had goals of care discussion with 
patient and family on ___ and confirmed she wants to pursue 
aggressive therapy, including EGD and HD; DNR/DNI in the event 
of arrest. She wants to be abstinent and eventually be placed on 
the transplant list. EGD showed ___ small varices with no 
stigmata of bleeding. She started lactulose and rifaximin for 
HE. Serial diagnostic paracentesis were negative for SBP. She 
had large-volume paracentesis on ___ for relief of tense 
ascites. ___ need outpatient LVP depending on whether she 
continues to be able to remove fluid via UF. She was maintained 
on high protein, ___ gm sodium diet and tube feeds. She will 
follow up with hepatology as an outpatient.

# Anuric ___ on CKD Stage IV
# ?Hepatorenal syndrome
She did not respond to albumin challenge, nor to 
octreotide/midodrine for possible HRS. Octreotide was stopped 
but she was maintained on midodrine for soft BPs. Outpatient HD 
___ arranged. PPD negative. 

# Abdominal pain
Multifactorial - alcoholic hepatitis, tense ascites, and 
possible acute on chronic pancreatitis (lipase 190). Was 
initially treated empirically for possible SBP but cell counts 
were not consistent; prophylaxis not indicated per Hepatology. 
Pain much improved after LVP ___. Repeat diagnostic para ___ 
remained negative.

# Severe protein calorie malnutrition
Nutrition was consulted. Dobhoff was placed for ongoing tube 
feeds, and high-protein diet and supplements were prescribed. 

# Hypoxemia
# Hepatic hydrothorax
# ?Hepatopulmonary syndrome
Patient had new 2L O2 requirement in setting of large R pleural 
effusion/hepatic hydrothorax, resolved after LVP. TTE did show 
evidence of pulmonary shunting which could represent HPS.

# Leukocytosis
Patient developed a new leukocytosis several days prior to 
discharge. Also had slight rise in bili and alk phos around this 
time. No fevers or localizing symptoms. Repeat infectious workup 
was unrevealing, including repeat diagnostic paracentesis, 
except for CXR equivocal for pneumonia. She was started on 
empiric oral levofloxacin for possible pneumonia, and 
leukocytosis stabilized for several days and LFTs improved 
somewhat prior to discharge. 

# Chronic macrocytic anemia 
Retics inappropriately low, consistent with marrow suppression. 
Likely multifactorial - EtOH, cirrhosis, splenomegaly, 
malnutrition, renal failure. No evidence of acute bleeding and 
not iron deficient on labs. B12 wnl. Hemolysis labs negative. 
EGD results as above. Will need continued attention as 
outpatient. 

# Chronic thrombocytopenia
Likely multifactorial - EtOH, cirrhosis, splenomegaly, 
malnutrition. No evidence for DIC or other consumptive process.

# Coagulopathy
PTT was elevated due to SC heparin, normalized after this was 
held and dose decreased to 2500 units BID. ___ were elevated 
due to cirrhosis. No evidence of bleeding, DIC, or other acute 
pathology. 

# Alcohol use disorder
Reports daily drinking prior to admission, about ___ pint qod to 
1 pint/day. Last drink ___. Denies h/o withdrawal. She 
received IV thiamine x 3 days and maintained on oral thiamine, 
folate and MVI. We discussed the importance of abstinence and SW 
helped arrange outpatient supports. We also discussed 
pharmacological assistance to treat alcohol use disorder and 
depression, however patient deferred at this time.

# Chronic RLE edema
# History of RLE provoked DVT 
DVT occurred after left knee fracture. IVC filter was placed in 
___. Course complicated by need for catheter lysis and 
extravasation into right thigh per patient. No longer on 
anticoagulation. Repeat Doppler this admission negative for 
persistent DVT. She continued on half-dose heparin SC.

=====================
CHRONIC ISSUES
=====================
# Hypothyroidism
TSH 2.1 this admission. Continued home levothyroxine.

# Gout
Reduced home allopurinol from 100 mg daily to every other day 
due to renal failure.

==================
TRANSITIONAL ISSUES
===================
- WBC elevated to 14.0 on discharge. Please recheck at HD on 
___ and evaluate for signs of infection. Discharged on empiric 
levofloxacin for possible pneumonia (500mg q48h, last day ___.
- Other medications started: midodrine 20mg TID, lactulose 
titrated to ___ BM/day, rifaximin 550mg BID.
- HD arranged ___
- ___ follow-up arranged
- Discharged with tube feeds
- ___ need intermittent LVP depending on whether she tolerates 
UF
- Did not start beta blocker for varices b/c HR ___
- Patient should have CBC and MELD labs checked checked within 1 
week of discharge. Script provided.

# CODE: DNR/DNI
# CONTACT: ___ (son, HCP) ___

> 30 minutes in patient care and coordination of discharge on 
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Levothyroxine Sodium 62.5 mcg PO DAILY 
3. Multivitamins W/minerals 1 TAB PO BID 
4. Thiamine 100 mg PO DAILY 
5. Allopurinol ___ mg PO DAILY 
6. Ascorbic Acid ___ mg PO BID 
7. Cyanocobalamin 50 mcg PO DAILY 
8. Fluticasone Propionate NASAL 1 SPRY NU BID 
9. Pyridoxine 100 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Vitamin E 400 UNIT PO QD 
12. Epoetin ___ ___ units SC EVERY 2 WEEKS (MO) 

 
Discharge Medications:
1.  Lactulose 30 mL PO TID 
RX *lactulose 10 gram/15 mL (15 mL) 30 mL by mouth ___ times per 
day Disp #*50 Package Refills:*0 
2.  Levofloxacin 500 mg PO Q48H Duration: 5 Days 
RX *levofloxacin 500 mg 1 tablet(s) by mouth every other day 
Disp #*3 Tablet Refills:*0 
3.  Midodrine 20 mg PO TID 
RX *midodrine 10 mg 2 tablet(s) by mouth three times a day Disp 
#*180 Tablet Refills:*3 
4.  Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*5 
5.  Nepro Carb Steady (nut.tx.imp.renal fxn,lac-reduc) 0.08 
gram-1.8 kcal/mL oral TID 
RX *nut.tx.imp.renal fxn,lac-reduc [Nepro Carb Steady] 0.08 
gram-1.8 kcal/mL 237 mL by mouth three times a day Refills:*0 
6.  Rifaximin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*5 
7.  Allopurinol ___ mg PO EVERY OTHER DAY  
8.  Fluticasone Propionate NASAL 1 SPRY NU BID  
9.  Levothyroxine Sodium 62.5 mcg PO DAILY  
10.Outpatient Lab Work
ICD-10 Code: ___ 
Please obtain by ___ and fax to: Dr. ___ ___  
CBC; Chem-10 (Na, K, Bicarb, Cl, BUN, Cr, Ca, Mg, Phos); Hepatic 
Panel (AST, ALT, Alk Phos, Tbili, Albumin, INR)

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
=================
Alcoholic hepatitis
Decompensated alcoholic cirrhosis with ascites
Acute on chronic renal failure
Hepatic encephalopathy
Severe protein calorie malnutrition
Alcohol use disorder
Thrombocytopenia
Coagulopathy
Anemia
Community-acquired pneumonia

Secondary Diagnoses
====================
Hypothyroidism
Gout

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you. 

WHY WAS I ADMITTED?
You were admitted because alcohol damaged your liver and your 
kidneys.

WHAT HAPPENED TO ME WHILE I WAS IN THE HOSPITAL?
-You were followed closely by our liver and kidney experts.
-You were started on dialysis for your kidneys. This helps 
remove fluid from your body since you are unable to urinate.
-You had an endoscopy test which showed some dilated veins in 
your esophagus. 
-You had a tube placed from your nose into your intestine to 
give you more nutrition to help you recover. 

WHAT SHOULD I DO WHEN I GET HOME?
-Follow up with your liver doctors, kidney doctors ___ see 
them at dialysis), and your primary care doctor.
-___ will need to go to dialysis three times a week ___, 
___.
-You may need to have fluid drained from your abdomen from time 
to time. This can be arranged through your liver doctor.
-___ all your medicines and continue your tube feeds.
-Do not drink any alcohol. We strongly recommend you sign up for 
a program such as Alcoholic Anonymous to help you stay sober.

We wish you all the best.

Sincerely,
Your ___ Care Team

 
Followup Instructions:
___